US06498174B1
Intermediate 4B: 2-[5-ethyl-2-(4-fluorophenyl)-1,3-thiazol-4-yl]acetic acid
The title compound was prepared from 6.8 g of 4-fluorothiobenzamide and 7.42 g of ethyl 4-bromo-3-oxo-hexanoate as described in example 2B to give 2.9 grams of intermediate 4B as a solid: 1H NMR (CDCl3, 300 MHz) δ7.96 (dd, 2H, J=8.8, 5.3), 7.11 (t, 2H, J=8.6), 3.61 (s, 2H), 2.69 (q, 2H, J=7.5), 1.27 (t, 3H, J=7.5).

reactant | 4-fluorothiobenzamide | 6.8 g | FC1=CC=C(C(=S)N)C=C1 | C7H6FNS
reactant | ethyl 4-bromo-3-oxo-hexanoate | 7.42 g | BrC(C(CC(=O)OCC)=O)CC | C8H13BrO3
product | 2-[5-ethyl-2-(4-fluorophenyl)-1,3-thiazol-4-yl]acetic acid | C(C)C1=C(N=C(S1)C1=CC=C(C=C1)F)CC(=O)O | C13H12FNO2S
